US06410561B1
Synthesis of N-(4-amino-2-methyl-6-quinolyl)-2-[(4-ethylphenoxy)methyl]-benzamide hydrochloride
To a solution of 2-[(4-ethylphenoxy)methyl]benzoic acid (1.13 g, 4.4 mmol) obtained in Preparation Example 2-1 in chloroform (20 ml) was added oxalyl chloride (0.6 ml, 6.8 mmol) and the mixture was stirred at room temperature for 1 hr. Then the reaction mixture was concentrated under reduced pressure. To the obtained acid chloride were added pyridine (20 ml) and 4,6-diamino-2-methylquinoline (623 mg, 4 mmol) obtained in Preparation Example 1-1 and the mixture was stirred at room temperature for 10 hr. To the reaction mixture was added an aqueous sodium hydrogencarbonate solution and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried over sodium sulfate, and the solvent was evaporated. The obtained crude product was dissolved in ethanol and treated with active charcoal, and the solvent was evaporated. The obtained residue was dissolved in ethyl acetate and 1N hydrochloric acid-ether solution was added. The resulting precipitate was collected by filtration. The obtained solid was heated and dried under reduced pressure to give the title compound (1.06 g, 59%, pale-yellow crystals).

reactant | oxalyl chloride | 6.8 mmol, 0.6 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4,6-diamino-2-methylquinoline | 4 mmol, 623 mg | NC1=CC(=NC2=CC=C(C=C12)N)C | C10H11N3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | charcoal | C | CH4
reactant | ethanol | C(C)O | C2H6O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | N-(4-amino-2-methyl-6-quinolyl)-2-[(4-ethylphenoxy)methyl]-benzamide hydrochloride | 1.06 g, 59% | Cl.NC1=CC(=NC2=CC=C(C=C12)NC(C1=C(C=CC=C1)COC1=CC=C(C=C1)CC)=O)C | InChI=1S/C26H25N3O2.ClH/c1-3-18-8-11-21(12-9-18)31-16-19-6-4-5-7-22(19)26(30)29-20-10-13-25-23(15-20)24(27)14-17(2)28-25;/h4-15H,3,16H2,1-2H3,(H2,27,28)(H,29,30);1H
